US09255090B2
To an ice-cooled solution of phenethyl alcohol (1.21 mL, 10 mmol, 1.0 eq.) and ethyl 3,3-diethoxy-propionate (2.59 mL, 12 mmol, 1.2 eq) in DCM (5 mL), 1N titantetrachloride solution in DCM (22 mL, 22 mmol, 2.2 eq) was added dropwise. The mixture was stirred at 0° C. for 1 hour and further at r.t. for 3 hours. The mixture was poured onto ice and 2N aq. HCl soln. (30 mL). The layers were separated. The aq. phase was extracted with DCM (2×50 mL). The comb. org. phases were washed with sat. aq. NaCl soln. (1×50 mL), dried over Na2SO4, and concentrated in vacuo. The residue was purified by flashmaster (column: 100 g, flow: 45 mL/min, 40 fractions of 45 mL, Heptane to Heptane/AcOEt 85:15) to yield (±)-isochroman-1-yl-acetic acid ethyl ester as a colorless oil.

reactant | phenethyl alcohol | 10 mmol, 1.21 mL, 1.0 eq. | C(CC1=CC=CC=C1)O | C8H10O
reactant | ethyl 3,3-diethoxy-propionate | 12 mmol, 2.59 mL, 1.2 eq | C(C)OC(CC(=O)OCC)OCC | C9H18O4
reactant | HCl | 2N | Cl | ClH
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 22 mmol, 22 mL, 2.2 eq | C(Cl)Cl | CH2Cl2
product | (±)-isochroman-1-yl-acetic acid ethyl ester | C(C)OC(CC1OCCC2=CC=CC=C12)=O | C13H16O3
